US07994316B2
Under a stream of argon, 2.8 ml of a hexane solution containing 4.3 mmol of butyl lithium was slowly added to 15 ml of tetrahydrofuran cooled to −78° C. in which prepared by dissolving 0.91 g of 4-bromobiphenyl. After stirring at −78° C. for 15 minutes, 1.19 g of dichloro(tetramethylethylenediamine)zinc(II) was added thereto and stirred at −78° C. for 10 minutes and then at room temperature for 2 hours. A 1.47 g portion of 2-(4-bromophenyl)-4,6-bis(1-naphthyl)-1,3,5-triazine prepared in Reference Example 4 and 0.14 g of tetrakis(triphenylphosphine)palladium(0) were dissolved in 80 ml of tetrahydrofuran and added to this solution, followed by stirring under heating reflux for 13 hours. The reaction solution was concentrated under a reduced pressure and the thus obtained solid was washed with chloroform to obtain a white solid of the intended 2,4-bis(1-naphthyl)-6-[1,1′:4′,1″]terphenyl-4-yl-1,3,5-triazine (1.19 g, yield 71%).

reactant | hexane | 2.8 ml | CCCCCC | C6H14
reactant | butyl lithium | 4.3 mmol | C(CCC)[Li]
reactant | 4-bromobiphenyl | 0.91 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 2-(4-bromophenyl)-4,6-bis(1-naphthyl)-1,3,5-triazine | BrC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C29H18BrN3
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2,4-bis(1-naphthyl)-6-[1,1′:4′,1″]terphenyl-4-yl-1,3,5-triazine | 1.19 g, yield 71% | C1(=CC=CC2=CC=CC=C12)C1=NC(=NC(=N1)C1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C41H27N3
